US04880799
A solution of bromo acetylbromide in toluene (20 ml) was added dropwise to an ice-cooled stirred solution of 0-mercaptoaniline (10 mmol, 2.5 g) in a mixture of pyridine and toluene (50 ml, 30 ml). The mixture was allowed to heat to room temperature and stirring was continued for 2 hours followed by reflux for 30 min., whereafter water (100 ml) was added. The organic phase was separated, dried (MgSO4) and evaporated to give 3,4-dihydro-3-oxo-2H-1,4-benzothiazine. M.p. 170°-171° C.

reactant | bromo acetylbromide | BrCC(=O)Br | C2H2Br2O
reactant | 0-mercaptoaniline | 10 mmol, 2.5 g | SC1=C(N)C=CC=C1 | C6H7NS
reactant | water | 100 ml | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-dihydro-3-oxo-2H-1,4-benzothiazine | O=C1CSC2=C(N1)C=CC=C2 | C8H7NOS
